US07560596B2
Synthesis of biphenyl-3,4′-dicarboxylic acid (FIG. 3, Entry 1; K. M. Lawson Daku, R. F. Newton, S. P. Pearce, J. Vile, J. M. J. Williams, Tetrahedron Lett. 2003, 44, 5095; and J. B. Bapat, R. F. C. Brown, G. H. Bulmer, T. Childs, K. J. Coulston, F. W. Eastwood, D. K. Taylor Australian J. Chem. 1997, 50, 1159.)
Using microwave irradiation. The general procedure described in Example 3 was used with 4-chlorobenzoic acid (157 mg, 1.00 mmol), 3-carboxyphenylboronic acid (199 mg, 1.20 mmol), Pd(OAc)2 (2.2 mg, 0.010 mmol, 1 mol %), sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate (10.0 mg, 0.020 mmol, 2 mol %), K2CO3 (414 mg, 3.00 mmol), water (3.0 mL), 10 min at 150° C. (using microwave irradiation with cooling). The product was isolated as a white solid (229 mg, 95%). Mp=>250° C. (lit. mp=295° C.). 1H NMR (400 MHz, d6-DMSO/D2O) δ: 8.22 (s, 1H), 8.42 (d, 2H, J=7.6 Hz), 7.98 (d, 1H, J=7.6 Hz), 7.91 (d, 1H, J=7.6 Hz), 7.79 (d, 2H, J=7.6 Hz), 7.59 (t, 1H, J=7.2 Hz). 13C NMR (125 MHz, d6-DMSO/D2O) δ: 167.5, 143.6, 139.7, 131.9, 131.7, 130.4, 130.3, 129.8, 129.4, 127.8, 127.2.

reactant | 4-chlorobenzoic acid | 1.00 mmol, 157 mg | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | 3-carboxyphenylboronic acid | 1.20 mmol, 199 mg | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | K2CO3 | 3.00 mmol, 414 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.010 mmol, 2.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate | 0.020 mmol, 10.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
solvent | water | 3.0 mL | O | H2O
product | biphenyl-3,4′-dicarboxylic acid | 229 mg, 95% | C1(=CC(=CC=C1)C(=O)O)C1=CC=C(C=C1)C(=O)O | C14H10O4
